US06420364B1
Morpholine-4-carboxylic Acid [1-(4-Cyano-1-methyl-piperidin-4-ylcarbamoyl)-3,3-dimethyl-butyl]-amide
[1-(4-cyano-1-methyl-piperidin-4-ylcarbamoyl)-3,3-dimethyl-butyl]-amine dihydrochloride (350 mg, 1.03 mmol) was mixed in 10 mL of DMF to which was added 1 mL of N-methyl morpholine followed by addition of 4-morpholine carbonyl chloride (180 mg, 1.20 mmol) as a solution in 5 mL of DMF. The reaction was stirred for 16 hours at which time the volatiles were removed in vacuo. The residue was redissolved in 150 mL of EtOAc and washed sequentially with 50 mL of saturated aqueous bicarbonate and 50 mL of brine. The organic layer was dried over sodium sulfate, decanted and concentrated. The product was purified by flash chromatography on silica gel using 100% methylene chloride to 12% methanol in methylene chloride as eluent to give the title compound as a thick oil (85 mg); MS, m/z 380=M+1.

reactant | [1-(4-cyano-1-methyl-piperidin-4-ylcarbamoyl)-3,3-dimethyl-butyl]-amine dihydrochloride | 1.03 mmol, 350 mg | Cl.Cl.C(#N)C1(CCN(CC1)C)NC(=O)C(CC(C)(C)C)N
reactant | N-methyl morpholine | 1 mL | CN1CCOCC1 | C5H11NO
reactant | 4-morpholine carbonyl chloride | 1.20 mmol, 180 mg | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Morpholine-4-carboxylic Acid [1-(4-Cyano-1-methyl-piperidin-4-ylcarbamoyl)-3,3-dimethyl-butyl]-amide | 85 mg | C(#N)C1(CCN(CC1)C)NC(=O)C(CC(C)(C)C)NC(=O)N1CCOCC1 | C19H33N5O3
